US07081456B2
3-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid
3-Hydrazinobenzoic acid (1.91 g, 0.013 mol) was added in one portion to a stirred solution of 4-chloro-8-fluoro-quinoline-3-carboxylic acid ethyl ester (2.93 g, 0.011 mol) in n-butanol (60 ml) at room temperature. The solution was heated to reflux for 16 h, cooled to room temperature and the resulting yellow solid filtered, washed with tert-butyl methyl ether and then dried. The solid was redissolved in a solution of tetrahydrofuran:water (2:1; 21 ml) and lithium hydroxide (1.27 g, 0.031 mol) was then added. After stirring at room temperature for 16 h, concentrated hydrochloric acid (3 ml) was added dropwise to the mixture to precipitate a yellow solid which was filtered and dried under vacuum to give the title compound (intermediate 3) (2.32 g, 63%) as a bright yellow solid.

reactant | 3-Hydrazinobenzoic acid | 0.013 mol, 1.91 g | N(N)C=1C=C(C(=O)O)C=CC1 | C7H8N2O2
reactant | 4-chloro-8-fluoro-quinoline-3-carboxylic acid ethyl ester | 0.011 mol, 2.93 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)F | C12H9ClFNO2
reactant | lithium hydroxide | 0.031 mol, 1.27 g | [OH-].[Li+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
solvent | tetrahydrofuran water | 21 ml | O1CCCC1.O
product | 3-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 2.32 g, 63% | FC1=CC=CC=2C=3C(=CNC12)C(N(N3)C=3C=C(C(=O)O)C=CC3)=O | C17H10FN3O3
